US04317905
For example, according to the above-cited British patent, one starts from 10-(2-tetrahydropyranyloxy-)dec-1-ynyl magnesium bromide, which is reacted with butyraldehyde to obtain 14-(-2-tetrahydropyranyloxy-)-tetradec-5-yn-4-ol, which is then dehydrated to 2-(-tetradec-11-en-9-ynyloxy-)-tetrahydropyranyl(cis, trans mixture); the latter, after acetylation and reduction, provides a cis-cis and cis-trans mixture of 9,11-tetradecadienyl-acetate. To obtain the desired cis-trans compound, a difficult and expensive separation of the isomers is required.

reactant | 10-(2-tetrahydropyranyloxy-)dec-1-ynyl magnesium bromide | O1C(CCCC1)OCCCCCCCCC#C[Mg]Br
reactant | butyraldehyde | C(CCC)=O | C4H8O
product | 14-(-2-tetrahydropyranyloxy-)-tetradec-5-yn-4-ol | O1C(CCCC1)OCCCCCCCCC#CC(CCC)O | C19H34O3
